US03994923
38 parts of para-isopropylphenol and 96 grams 1-methylcyclohexanol were reacted as described in Example 15 to give 2,6-bis (1-methyl-cyclohexyl)-4-isopropylphenol, γmax 3620 cm-1 (--OH).

reactant | para-isopropylphenol | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 1-methylcyclohexanol | 96 grams | CC1(CCCCC1)O | C7H14O
product | 2,6-bis (1-methyl-cyclohexyl)-4-isopropylphenol | CC1(CCCCC1)C1=C(C(=CC(=C1)C(C)C)C1(CCCCC1)C)O | C23H36O
